US08475888B2
4-Bromo-3-fluorophenol (T-1) (50.0 g), 3,5-difluorophenylboronic acid (45.5 g), potassium carbonate (72.4 g), Pd(Ph3P)2Cl2 (5.52 g) and 2-propanol (500 ml) were put in a reaction vessel and heated to reflux for 5 hours under an atmosphere of nitrogen. After the reaction solution had been cooled to 25° C., it was poured into water (500 ml) and mixed with it. Toluene (500 ml) was added to the solution to separate organic and aqueous phases, and extraction was carried out. The combined organic phase was washed with water and dried over anhydrous magnesium sulfate. The resulting solution was concentrated under reduced pressure and the residue was purified with a fractional operation by means of column chromatography (silica gel; toluene). The product was further purified by recrystallization from a mixed solvent of heptane/Solmix A-11 and dried, giving 4-hydroxy-2,3′,5′-trifluoro-1,1′-biphenyl (T-2) (43.4 g). The yield based on the compound (T-1) was 74%.

reactant | 4-Bromo-3-fluorophenol | 50.0 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | 3,5-difluorophenylboronic acid | 45.5 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 72.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propanol | 500 ml | CC(C)O | C3H8O
catalyst | Pd(Ph3P)2Cl2 | 5.52 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 ml | O | H2O
product | 4-hydroxy-2,3′,5′-trifluoro-1,1′-biphenyl | 43.4 g | OC1=CC(=C(C=C1)C1=CC(=CC(=C1)F)F)F | C12H7F3O
